### PR TITLE
Adding bigop lemmas for ring : expr_sum and prodr_natmul

### PR DESCRIPTION
**Pull request by thery**
##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)
- ~[ ] added corresponding documentation in the headers~
- [ ] after merge: open an issue to deal with the deprecations in 1.13 [EDIT BY Kazuhiko]

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

File: mathcomp/algebra/ssralg.v [hunk 1]
```diff
@@ -1089,6 +1089,10 @@ Proof. by elim: m => [|m IHm]; rewrite ?mul1r // !exprS -mulrA -IHm. Qed.
 Lemma exprSr x n : x ^+ n.+1 = x ^+ n * x.
 Proof. by rewrite -addn1 exprD expr1. Qed.
 
+Lemma expr_sum x (I : Type) (s : seq I) (P : pred I) F : 
+  x ^+ (\sum_(i <- s | P i) F i) = \prod_(i <- s | P i) x ^+ F i :> R.
+Proof. by apply: (big_morph _ (exprD _)). Qed.
```
Comment (pi8027) [inline mathcomp/algebra/ssralg.v:1094]: `exact:`?

Comment (thery) [reply mathcomp/algebra/ssralg.v]: done

Comment (pi8027) [reply mathcomp/algebra/ssralg.v]: I meant that you may replace `by apply:` with `exact:` since `exact:` is a terminator.

File: mathcomp/algebra/ssralg.v [hunk 2]
```diff
@@ -1263,13 +1267,19 @@ rewrite -sum1_card; elim/big_rec3: _ => [|i x n _ _ ->]; first by rewrite mulr1.
 by rewrite exprS !mulrA mulN1r !mulNr commrX //; apply: commrN1.
 Qed.
 
-Lemma prodrMn n (I : finType) (A : pred I) (F : I -> R) :
-  \prod_(i in A) (F i *+ n) = \prod_(i in A) F i *+ n ^ #|A|.
+Lemma prodrM2n (I : Type) (s : seq I) (P : pred I)
```
Comment (CohenCyril) [inline mathcomp/algebra/ssralg.v:1270]: I'm not fond of the `2` in the name here, it is more reminicent of `x *+ 2` than the current one.
Ideally I'd prefer `prodrMn` for this one, and `prodrMn_const` for the other one.
An alternative would be to use the name `prodr_natmul`

Comment (thery) [reply mathcomp/algebra/ssralg.v:1270]: I agree/ As a matter of fact, I am not so sure prodrMn_const is still needed (it is just a combination of 2 rewrite).
Does this mean I have to do another instance of multiple PR to rename and add a theorem?

Comment (thery) [reply mathcomp/algebra/ssralg.v]: ok I've rename `prodrM2n` into `prodr_natmul` and rename `prodrMn` intro `prodrMn_const`

File: mathcomp/algebra/ssralg.v [hunk 3]
```diff
@@ -1089,6 +1089,10 @@ Proof. by elim: m => [|m IHm]; rewrite ?mul1r // !exprS -mulrA -IHm. Qed.
 Lemma exprSr x n : x ^+ n.+1 = x ^+ n * x.
 Proof. by rewrite -addn1 exprD expr1. Qed.
 
+Lemma expr_sum x (I : Type) (s : seq I) (P : pred I) F :
```
Comment (pi8027) [inline mathcomp/algebra/ssralg.v:1092]: This lemma has also to be exported from `GRing.Theory` (L. 5667).

File: mathcomp/algebra/ssralg.v [hunk 4]
```diff
@@ -6533,3 +6544,6 @@ End Test3.
 *)
 
 (* end hide *)
+
+Notation prodrMn :=
+ ((fun n A F => deprecate prodrMn prodrMn_const _ n _ A F)).
```
Comment (pi8027) [inline mathcomp/algebra/ssralg.v:6549]: I think this should be located in the `GRing.Theory` module. (Please make sure that `ssrnum.v` before this change emits deprecation warnings but still compiles.)

Comment (thery) [reply mathcomp/algebra/ssralg.v]: thanks. Should be ok now

File: mathcomp/algebra/ssralg.v (hunk 3 above)
Comment (thery) [reply mathcomp/algebra/ssralg.v:1092]: done

File: mathcomp/algebra/ssralg.v [hunk 5]
```diff
@@ -6007,6 +6019,9 @@ Definition imaginary_exists := imaginary_exists.
 Notation null_fun V := (null_fun V) (only parsing).
 Notation in_alg A := (in_alg_loc A).
 
+Notation prodrMn :=
+ ((fun n A F => deprecate prodrMn prodrMn_const _ n _ A F)).
```
Comment (pi8027) [inline mathcomp/algebra/ssralg.v:6023]: Coq says that this notation is not reversible so:
```suggestion
  (fun n A F => deprecate prodrMn prodrMn_const _ n _ A F) (only parsing).
```

File: CHANGELOG_UNRELEASED.md [hunk 6]
```diff
@@ -207,6 +207,12 @@ The format is based on [Keep a Changelog](https://keepachangelog.com/en/1.0.0/).
     * new lemmas: `eigenpolyP`, `eigenvalue_poly`, `eigenspace_sub_geigen`,
   + new `map_mx` lemmas: `map_kermxpoly`, `map_geigenspace`, `eigenpoly_map`.
 
+- in `ssralg.v`: 
+   + Lemma `expr_sum` : equivalent for ring of `expn_sum`
+   + Lemma `prodr_natmul` : generalization of `prodrMn_const`.
+   Its name will become `prodrMn` in the next release when this name will become available (cf. Renamed section)
```
Comment (pi8027) [inline CHANGELOG_UNRELEASED.md:213]: Did we reach a consensus on this 2 step renamings/deprecations? @CohenCyril

Comment (CohenCyril) [reply CHANGELOG_UNRELEASED.md:197]: Yes I think we did!

**Review by CohenCyril — APPROVED** [review]
LGTM

**Comment by pi8027** [comment]
Please open an issue to address the remaining TODO.
